US07829572B2
2-(2-Benzyloxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one dissolved in methanol (0.05M) was subjected to H-cube hydrogenation (room temperature, Pd/C cartridge). Solvent was then removed and product purified on preparative TLC plate to afford the desired 2-(2-Hydroxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one.

reactant | 2-(2-Benzyloxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2OC)=O)CCC2=CC=CC=C2 | C29H25N3O3
solvent | methanol | 0.05M | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(2-Hydroxy-phenyl)-5-methoxy-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2OC)=O)CCC2=CC=CC=C2 | C22H19N3O3
